US08557805B2
N,N-Dimethyl-2-[2-(5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetamide
To a solution of [2-(5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetic acid (150 mg) in N,N-dimethylformamide (5 mL) were added 1-hydroxybenzotriazole monohydrate (80 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (100 mg), and 2M dimethylamine tetrahydrofuran solution (0.35 mL), and the mixture was stirred at room temperature for 15 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The obtained crude product was subjected to basic silica gel column chromatography (methanol:ethyl acetate:hexane=0:0:100 to 10:90:0, volume ratio) and crystallized from acetonitrile to give the title compound (112 mg, yield 70%) as white crystals.

reactant | [2-(5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetic acid | 150 mg | CS(=O)(=O)C1=CC=C(C=N1)OC=1C=C2C=C(NC2=CC1)C=1SC(CN1)CC(=O)O | C19H17N3O5S2
reactant | 1-hydroxybenzotriazole monohydrate | 80 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 100 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | dimethylamine tetrahydrofuran | 2M, 0.35 mL | O1CCCC1.CNC
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
solvent | Water | O | H2O
product | N,N-Dimethyl-2-[2-(5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetamide | 112 mg, yield 70% | CN(C(CC1CN=C(S1)C=1NC2=CC=C(C=C2C1)OC=1C=NC(=CC1)S(=O)(=O)C)=O)C | C21H22N4O4S2
